US04420424
(B) H-Ile-Phe-OBut.HCl
3.65 g of Z-Ile-Phe-OBut are dissolved in 100 ml of methanol and subjected to catalytic hydrogenation at pH 4.5 after adding Pd-on-BaSO4 and 2 N methanolic hydrochloric acid. After the reaction is complete the catalyst is filtered off and the filtrate is concentrated. The residue crystallizes on being triturated with ether. Yield 2.57 g, melting point 107°-109°, [α]D24 =+15.9° (c=1, in methanol).

reactant | Z-Ile-Phe-OBut | 3.65 g | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C27H36N2O5
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | H-Ile-Phe-OBut.HCl | N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC(C)(C)C.Cl | InChI=1S/C19H30N2O3.ClH/c1-6-13(2)16(20)17(22)21-15(18(23)24-19(3,4)5)12-14-10-8-7-9-11-14;/h7-11,13,15-16H,6,12,20H2,1-5H3,(H,21,22);1H/t13-,15-,16-;/m0./s1
